US07598393B2
Step C. 2-(2,2-Dimethylpropyl)-5-(isopropylsulfonyl)-1-(2-pyrrolidin-1-ylethyl)-1H-benzimidazole
To a solution of 2-amino-4-(isopropylsulfonyl)-1-(N-2-pyrrolidine-1-ylethylamino)benzene (122.9 mg, 0.39 mmol) in ethyl acetate (8 mL) was added tert-butylacetyl chloride (60 μL, 0.43 mmol) at room temperature, and the mixture was stirred for 1 h at room temperature. 2N—NaOH (1 mL) and ethanol (3 mL) were then added to the reaction mixture at room temperature, and stirred for 6 h at 80° C. The reaction was quenched with water, and extracted with three times with ethyl acetate. The combined organic layers were dried over MgSO4 and filtered. The filtrate was evaporated under reduced pressure. The residue was purified by amine coated silica gel column chromatography (hexane:ethyl acetate=3:1) to give the title compound as an orange solid (107.9 mg, 70%).

reactant | 2-amino-4-(isopropylsulfonyl)-1-(N-2-pyrrolidine-1-ylethylamino)benzene | 0.39 mmol, 122.9 mg | NC1=C(C=CC(=C1)S(=O)(=O)C(C)C)NCCN1CCCC1 | C15H25N3O2S
reactant | tert-butylacetyl chloride | 0.43 mmol, 60 μL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | NaOH | 1 mL | [OH-].[Na+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,2-Dimethylpropyl)-5-(isopropylsulfonyl)-1-(2-pyrrolidin-1-ylethyl)-1H-benzimidazole | 107.9 mg, 70% | CC(CC1=NC2=C(N1CCN1CCCC1)C=CC(=C2)S(=O)(=O)C(C)C)(C)C | C21H33N3O2S
